US08314087B2
Ethyl 2-(5-bromo-2-oxopyridin-1(2H)-yl)propanoate.
To a solution of 5-bromo-2(1H)-pyridone (7.8 g, 45 mmol) in 80 mL of DMF at 0° C. was added sodium hydride (60% dispersion in mineral oil, 2.1 g, 90 mmol). The mixture was stirred at 0° C. for 45 minutes. Ethyl 2-bromopropionate (9.7 g, 54 mmol) was then added via a syringe. The reaction was warmed up to rt and let stir for 16 hours. The reaction mixture was then poured into an ice-HCl (2N) solution until pH˜2. The aqueous mixture was extracted with 2×100 mL of EtOAc. The combined organic phases were dried over Na2SO4 and concentrated in vacuo. The residue was chromatographed on a silica gel column (30% EtOAc/hexane to EtOAC) to give yellow oil (9.0 g, 73% yield) as desired product. MS (ESI pos. ion) m/z (MH+): 273.9. Calc'd Exact Mass for C10H12BrNO3: 273.00.

reactant | 5-bromo-2(1H)-pyridone | 45 mmol, 7.8 g | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | sodium hydride | 90 mmol, 2.1 g | [H-].[Na+]
reactant | Ethyl 2-bromopropionate | 54 mmol, 9.7 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-(5-bromo-2-oxopyridin-1(2H)-yl)propanoate | BrC=1C=CC(N(C1)C(C(=O)OCC)C)=O | C10H12BrNO3
